US09328096B2
2,4-dichloro-5-(pyridin-2-yl)benzoic acid
To a solution of methyl 2,4-dichloro-5-(pyridin-2-yl)benzoate (Preparation 44, 3.96 g, 14 mmol) in industrial methylated spirit (60 mL) was added a 2M solution of LiOH in water (35 mL, 70 mmol) and the reaction was stirred at room temperature for 3 hours. The reaction was acidified with 2M HCl (aq) (35 mL) to afford a white precipitate that was filtered and washed with industrial methylated spirit to afford the title compound (3.76 g, quant.).

reactant | methyl 2,4-dichloro-5-(pyridin-2-yl)benzoate | 14 mmol, 3.96 g | ClC1=C(C(=O)OC)C=C(C(=C1)Cl)C1=NC=CC=C1 | C13H9Cl2NO2
reactant | LiOH | [Li+].[OH-]
reactant | water | 70 mmol, 35 mL | O | H2O
reactant | HCl | 2M, 35 mL | Cl | ClH
product | 2,4-dichloro-5-(pyridin-2-yl)benzoic acid | 3.76 g | ClC1=C(C(=O)O)C=C(C(=C1)Cl)C1=NC=CC=C1 | C12H7Cl2NO2
